US05563230
3-Chloro-4-(10-undecen-1-yloxy) benzoic acid (I-19)
10-Undecen-1-yl Tosylate (compound I-7) was separately reacted with 4-hydroxybenzoic acid and 3-chloro-4-hydroxy-benzoic acid to synthesize the compounds I-18 and I-19. The synthesis of compound I-18 was described below as an example. 1.75 g (0.0312 mole) KOH, 0.05 g KI and 100 ml of 90% ethanol were mixed and refluxed. To the mixture 2.15 g (0.0156 mole) 4-hydroxybenzoic acid was added dropwise, and refluxed for one hour. 4.433 g (0.013 mole) compound I-7 was added slowly and refluxed for 10 hours. 10% KOH was then added and refluxed again for two hours. Ethanol was removed from the mixture which was then extracted with ethyl ether. The collected ethyl ether layer was dried over anhydrous MgSO4, filtered and concentrated to obtained solid product. The resulting solid product was recrystallized from ethanol. Yield: I-18: 40.6%; I-19: 36.4%. 1H-NMR:

reactant | 10-Undecen-1-yl Tosylate | S(=O)(=O)(OCCCCCCCCCC=C)C1=CC=C(C)C=C1 | C18H28O3S
reactant | 4-hydroxybenzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 3-chloro-4-hydroxy-benzoic acid | ClC=1C=C(C(=O)O)C=CC1O | C7H5ClO3
reactant | KOH | 0.0312 mole, 1.75 g | [OH-].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Chloro-4-(10-undecen-1-yloxy) benzoic acid | ClC=1C=C(C(=O)O)C=CC1OCCCCCCCCCC=C | C18H25ClO3
